US06777417B2
3-[3-(4-Methylpiperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde was prepared following the procedure described for 3-(3-dimethylamino-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde as described for Example 1 above but substituting 1-methylpiperazine in step 2 above for dimethylamine.

reactant | 3-(3-dimethylamino-propyl)-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | CN(CCCC1=C(NC=2CCCCC12)C=O)C | C14H22N2O
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | dimethylamine | CNC | C2H7N
product | 3-[3-(4-Methylpiperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | CN1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C17H27N3O
